data/specific_train_final.csv
"CCCCC(CO[N+](=O)[O-])[O:20].[N+:10](=O)[O-]>>CCCCC(CO[N+](=O)[O-])[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C=O)(C(CO)OO)[O:30].[N+:40]([O-])=[O]>>CC(C=O)(C(CO)OO)[O:30][N+:40]([O-])=[O] 30-30,40;40-30,40",Room Temperature,Termination,recombine
"[CH3:10][CH:9]([CH3:11])[O:8][C:6]([CH3:7])([CH3:12])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13]>>[CH3:10][CH:9]([CH3:11])[O:8][C:6]([CH3:7])([CH3:12])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:13] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"C[CH:10]CC(C)C.[O:20][O]>>CC(C)C[CH:10](C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CCC(C1C2)(COO[O:20][N+:21](=O)[O-])O[N+](=O)[O-])C>>CC1(C2CCC(C1C2)(COO[O:20])O[N+](=O)[O-])C.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCC(COO[O:20][N+:21](=O)[O-])O>>CCCCC(COO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(CC2C1CCC(C(CCC2=C)O)(C)[O:20][O:21][O])C.[N+](=O)[O-]>>CC1(CC2C1CCC(C(CCC2=C)O)(C)[O:20])C.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(CO)COO[O:20][N+:21](=O)[O-]>>C(CO)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:10]1C=CC(=C(C1O)C)C.[O:20][O]>>CC1=C(C([C:10](C=C1)(C)[O:20][O])O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(O)(Cl)Cl)(OO[O:20][N+:21](=O)[O-])Cl>>C(C(O)(Cl)Cl)(OO[O:20])Cl.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)[C:10]1C=CC=CC1O.[O:20][O]>>CC(C)[C:10]1(C=CC=CC1O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:5][C:4]1=[C:3]([CH:9]=[CH:8][CH:7]=[CH:6]1)[CH2:2][O:1].[N:11](=[O:12])[O:10]>>[CH3:5][C:4]1=[C:3]([CH:9]=[CH:8][CH:7]=[CH:6]1)[CH2:2][O:1].[N+:11](=[O:12])[O-:10] 11-10,Room Temperature,Propagation,ha resonance
"[H:10][C:4]([CH:3]([OH:11])[O:2][OH:1])([C:7](=[CH2:9])[CH3:8])[O:5][O:6]>>[H:10][C:4]1([C:7]([CH2:9][O:6][O:5]1)[CH3:8])[CH:3]([OH:11])[O:2][OH:1] 6-6,9; 7,9-6,9; 7,9-7",Room Temperature,Propagation,addition
"CC(C(C)(C)O)O[O:20].[N+](=O)([O-])[O:10]>>CC(C(C)(C)O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(CC)[O:20][O:21][O]>>CCC(C)(CC)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)OCCCOO[O:20][N+:21](=O)[O-]>>CC(=O)OCCCOO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1(C=C[C:21](C)=[C:20](C)C1O)O[O:10]>>C12C=C[C:21](C)[C:20](C)(C1O)[O:10]O2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC12C=C[CH:10]C(C1O)([O:20][O:21]2)C>>CC1(C=C[CH:10]2C(C1O)([O:20]2)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:9][O:8][O:7][O:6][O:5][CH:4]([CH2:3][CH2:2][CH3:1])[O:10][CH2:11][CH:12]([CH3:14])[OH:13]>>[H:9][O:8][O:7][O:6].[CH3:1][CH2:2][CH2:3][CH:4]([O:5])[O:10][CH2:11][CH:12]([CH3:14])[OH:13] 6,5-6; 5,6-5",Room Temperature,Initiation,homolyze
"CC(=O)C(CO)[O:21][OH:20].[He]>>[He].CC(=O)C(CO)[O:21].[OH:20] 20,21-20;20,21-21",Light,Initiation,homolyze
"COC[O:20][O:21]OO>>COC[O:20].OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)C(C)[O:20][O:21][O]>>CCC(C)C(C)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)(COO[O:20][N+:21](=O)[O-])O>>CCC(C)(COO[O:20])O.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO)(C(C=O)O[O:20])O.[N:10]=O>>CC(CO)(C(C=O)O[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:3][C:2](=[O:1])[C:4]([CH3:5])([CH2:8][O:9][N+:10](=[O:12])[O-:11])[O:6][O:7]>>[H:3][O:7][O:6][C:4]([CH3:5])([CH2:8][O:9][N+:10](=[O:12])[O-:11])[C:2]=[O:1] 2,3-2;2,3-3,7;7-3,7",Room Temperature,Propagation,abstraction
"[H:20][C:21](=O)C1C(O1)/C=C\C(=O)CC.[OH:10]>>[H:20][OH:10].CCC(=O)/C=C\C1C(O1)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1=CC2(C)C(O)C(C)(OO2)[CH:10]1.[O:20][O]>>CC3=CC4(C)C(O)C(C)(OO4)[CH:10]3[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C(C)C)[O:20].[N+:10](=O)[O-]>>CCC(C(C)C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)C(C)(C)O[O:20].[N:10]=O>>CC(C)C(C)(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCCCCC(CC)O[O:20].[N:10]=O>>CCCCCCCC(CC)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C[O:21][O:20][O])O[N+](=O)[O-].[N+](=O)[O-]>>CCCC(C[O:21])O[N+](=O)[O-].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(OCCO)O[O:20].[N:10]=O>>CC(OCCO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2](=[O:8])[CH:3]([CH:6]=[O:7])[O:4][OH:5].[CH2:11][O:10][OH:9]>>[CH3:1][C:2](=[O:8])[CH:3]([CH:6]=[O:7])[O:4][OH:5].[CH2:11]=[O:10].[OH:9] 10,9-9; 10,9-10,11; 11-10,11",Room Temperature,Propagation,retroaddition
